US07384951B2
a) 6-[(4-Fluorophenyl)hydroxymethyl]-1,2,3,4-tetrahydro-3-methyl-1-(1-methylethyl)-2,4-dioxo-thieno[2,3-d]pyrimidine-5-carboxylic acid ethyl ester
Prepared by the method of example 15 part a) using 1,2,3,4-tetrahydro-3-methyl-1-(1-methylethyl)-2,4-dioxothieno[2,3-d]pyrimidine-5-carboxylic acid ethyl ester and 4-fluorobenzaldehyde.

reactant | 1,2,3,4-tetrahydro-3-methyl-1-(1-methylethyl)-2,4-dioxothieno[2,3-d]pyrimidine-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=CSC=2N(C(N(C(C21)=O)C)=O)C(C)C | C13H16N2O4S
reactant | 4-fluorobenzaldehyde | FC1=CC=C(C=O)C=C1 | C7H5FO
product | 6-[(4-Fluorophenyl)hydroxymethyl]-1,2,3,4-tetrahydro-3-methyl-1-(1-methylethyl)-2,4-dioxo-thieno[2,3-d]pyrimidine-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(SC=2N(C(N(C(C21)=O)C)=O)C(C)C)C(O)C2=CC=C(C=C2)F | C20H21FN2O5S
